US08895313B2
2-{4-[(E)-2-(2-methoxy-4-nitrophenyl)ethenyl]phenyl}-6-methylimidazo[1,2-a]pyridine
Prepared as described in the Alkene Formation section using sodium hydride (60% dispersion in mineral oil, 33 mg, 0.838 mmol), diethyl[4-(6-methylimidazo[1,2-a]pyridin-2-yl)benzyl phosphonate (250 mg, 0.698 mmol) and 2-methoxy-4-nitrobenzaldehyde (126 mg, 0.698 mmol) in dry THF (15 ml) to give the title compound (199 mg, 74%) as an orange solid after work-up and flash chromatography (25:1 DCM/MeOH).

reactant | sodium hydride | 0.838 mmol, 33 mg | [H-].[Na+]
reactant | 4-(6-methylimidazo[1,2-a]pyridin-2-yl)benzyl phosphonate | 0.698 mmol, 250 mg | P(OCC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)C)C1)([O-])=O
reactant | 2-methoxy-4-nitrobenzaldehyde | 0.698 mmol, 126 mg | COC1=C(C=O)C=CC(=C1)[N+](=O)[O-] | C8H7NO4
reactant | DCM MeOH | C(Cl)Cl.CO
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-{4-[(E)-2-(2-methoxy-4-nitrophenyl)ethenyl]phenyl}-6-methylimidazo[1,2-a]pyridine | 199 mg, 74% | COC1=C(C=CC(=C1)[N+](=O)[O-])/C=C/C1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)C)C1 | C23H19N3O3
